US05627215
(E)-1-Ethyl-14-methyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.32 g (0.498 mmol) of (E)-1-ethyl-14-methyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 6 ml of 3N methanolic hydrochloric acid is stirred for 15 h at room temperature, and then 10 ml of diethyl ether are added. Working up analogously to Example 1 yields the title compound, m.p. >260° C. 1H-NMR (D2O): δ1.28(t,3H); 2.03-2.17(m,4H); 2.74(s,3H); 3.07-3.19(m,10H); 3.77(d,4H); 6.04-6.07(m,2H).

reactant | (E)-1-ethyl-14-methyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0.498 mmol, 0.32 g | C(C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C33H62N4O8
reactant | hydrochloric acid | 3N, 6 ml | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (E)-1-Ethyl-14-methyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C)NCCCNC\C=C\CNCCCNC | InChI=1S/C13H30N4.4ClH/c1-3-15-11-7-13-17-10-5-4-9-16-12-6-8-14-2;;;;/h4-5,14-17H,3,6-13H2,1-2H3;4*1H/b5-4+;;;;
